US09376418B2
HCl (4 M in dioxanes, 0.844 mL, 3.38 mmol) followed by palladium on carbon (599 mg, 0.281 mmol) were added to a mixture of 5-(3-methyl-5-{[4-(trifluoromethyl)pyrimidin-2-yl]amino}phenyl)pyridine-2-carbonitrile (1.00 g, 2.81 mmol) and ethanol (200 mL). The reaction mixture was purged and flushed with H2(g) and was stirred under 1 atm of H2(g) for 3.5 hours at room temperature. The reaction mixture was filtered through CELITE, washed with ethanol and ethyl acetate and concentrated under reduced pressure to afford N-{3-[6-(Aminomethyl)pyridin-3-yl]-5-methylphenyl}-4-(trifluoromethyl)pyrimidin-2-amine hydrochloride as a yellow powder. MS APCI calc'd for C18H17F3N5 [M+H]+ 360. found 360.

reactant | HCl | 3.38 mmol, 4 M, 0.844 mL | Cl | ClH
reactant | 5-(3-methyl-5-{[4-(trifluoromethyl)pyrimidin-2-yl]amino}phenyl)pyridine-2-carbonitrile | 2.81 mmol, 1.00 g | CC=1C=C(C=C(C1)NC1=NC=CC(=N1)C(F)(F)F)C=1C=CC(=NC1)C#N | C18H12F3N5
catalyst | palladium on carbon | 0.281 mmol, 599 mg | [Pd] | Pd
solvent | ethanol | 200 mL | C(C)O | C2H6O
product | N-{3-[6-(Aminomethyl)pyridin-3-yl]-5-methylphenyl}-4-(trifluoromethyl)pyrimidin-2-amine hydrochloride | Cl.NCC1=CC=C(C=N1)C=1C=C(C=C(C1)C)NC1=NC=CC(=N1)C(F)(F)F | InChI=1S/C18H16F3N5.ClH/c1-11-6-13(12-2-3-14(9-22)24-10-12)8-15(7-11)25-17-23-5-4-16(26-17)18(19,20)21;/h2-8,10H,9,22H2,1H3,(H,23,25,26);1H
